US08193207B2
Methyl chloroformate (6.0 μL) was added to a mixture of 8-(5-amino-3-methylpyridin-2-yl)-2-(cis-4-hydroxycyclohexyl)-2,8-diazaspiro[4.5]decan-1-one (18.0 mg) and N,N-diisopropylethylamine (20.0 μL) in acetonitrile (1.0 mL). The mixture was stirred for 2 h, and was diluted with methanol. The resulting solution was purified by prep-HPLC under basic condition to afford methyl {6-[2-(cis-4-hydroxycyclohexyl)-1-oxo-2,8-diazaspiro[4.5]dec-8-yl]-5-methylpyridin-3-yl}carbamate. LCMS: (M+H)+=416.2.

reactant | Methyl chloroformate | 6.0 μL | ClC(=O)OC | C2H3ClO2
reactant | 8-(5-amino-3-methylpyridin-2-yl)-2-(cis-4-hydroxycyclohexyl)-2,8-diazaspiro[4.5]decan-1-one | 18.0 mg | NC=1C=C(C(=NC1)N1CCC2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CC1)C | C20H30N4O2
reactant | N,N-diisopropylethylamine | 20.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | methyl {6-[2-(cis-4-hydroxycyclohexyl)-1-oxo-2,8-diazaspiro[4.5]dec-8-yl]-5-methylpyridin-3-yl}carbamate | O[C@H]1CC[C@H](CC1)N1C(C2(CC1)CCN(CC2)C2=C(C=C(C=N2)NC(OC)=O)C)=O | C22H32N4O4
